US06207825B1
0.85 g of 1-(4-chlorophenyl)-3-methylene-2-pyrrolidinone and 0.71 g of 4-(2-methoxyethyl)piperazine were mixed with 3 ml of acetonitrile. The mixture was refluxed for 3.5 hours. The reaction mixture was concentrated to dryness. The residue was purified by silica gel column chromatography using a mixed solvent (chloroform/methanol=20/1) to obtain 1.1 g of 1-(4-chlorophenyl)-3-[4-(2-methoxyethyl)piperazine-1-yl]methyl-2-pyrrolidinone.

reactant | 1-(4-chlorophenyl)-3-methylene-2-pyrrolidinone | 0.85 g | ClC1=CC=C(C=C1)N1C(C(CC1)=C)=O | C11H10ClNO
reactant | 4-(2-methoxyethyl)piperazine | 0.71 g | COCCN1CCNCC1 | C7H16N2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-(4-chlorophenyl)-3-[4-(2-methoxyethyl)piperazine-1-yl]methyl-2-pyrrolidinone | 1.1 g | ClC1=CC=C(C=C1)N1C(C(CC1)CN1CCN(CC1)CCOC)=O | C18H26ClN3O2
